US07671063B2
To a solution of 1,3-benzodioxol-5-amine (10 g, 73 mmol) in 200 ml Et2O and 100 ml THF, NEt3 (12.3 ml, 87.6 mmol) is added. The reaction mixture is cooled to 0° C. and pivaloyl chloride (10.5 ml, 87.6 mmol) in THF is added. After stirring for 1 h at 25° C., ice water is added, the mixture extracted with EtOAc and washed with brine, followed by drying (Na2SO4), evaporation of volatiles, and crystallization (CH2Cl2/hexanes) which gives N-benzo[1,3]dioxol-5-yl-2,2-dimethyl-propionamide.

reactant | 1,3-benzodioxol-5-amine | 73 mmol, 10 g | O1COC2=C1C=CC(=C2)N | C7H7NO2
reactant | NEt3 | 87.6 mmol, 12.3 ml | CCN(CC)CC | C6H15N
reactant | pivaloyl chloride | 87.6 mmol, 10.5 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | Et2O | 200 ml | CCOCC | C4H10O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-benzo[1,3]dioxol-5-yl-2,2-dimethyl-propionamide | O1COC2=C1C=CC(=C2)NC(C(C)(C)C)=O | C12H15NO3
